US07378432B2
Preparation of 3,5-Bisguanidinobenzyl phosphoric acid dihydrochloride:
1 M solution of HCl in ether (35 ml) was added to di-tert-butyl-3,5-Bis(N,N′-bis-Boc-guanidino)benzyl phosphate (0.45 gram, 0.57 mmol) and the resulting mixture was stirred at room temperature for 22-24 hours, during which a white precipitate was formed. The ether was thereafter decanted and the precipitate was washed 3-4 times with dry ether, evaporated and the residue was dried under high vacuum to give 0.13 grams (65%) of the final product.

reactant | HCl | Cl | ClH
reactant | di-tert-butyl-3,5-Bis(N,N′-bis-Boc-guanidino)benzyl phosphate | 0.57 mmol, 0.45 gram | P(=O)(OC(C1=CC(=CC(=C1)N(C(=NC(=O)OC(C)(C)C)N)C(=O)OC(C)(C)C)N(C(=NC(=O)OC(C)(C)C)N)C(=O)OC(C)(C)C)(C(C)(C)C)C(C)(C)C)([O-])[O-]
solvent | ether | 35 ml | CCOCC | C4H10O
product | 3,5-Bisguanidinobenzyl phosphoric acid dihydrochloride | 0.13 grams, 65% | Cl.Cl.N(C(=N)N)C=1C=C(COP(O)(O)=O)C=C(C1)NC(=N)N | InChI=1S/C9H15N6O4P.2ClH/c10-8(11)14-6-1-5(4-19-20(16,17)18)2-7(3-6)15-9(12)13;;/h1-3H,4H2,(H4,10,11,14)(H4,12,13,15)(H2,16,17,18);2*1H
